US07767675B2
Step 7. methyl 4-(diethoxyacetyl)-2-fluorobenzoate
A mixture of methyl 2-fluoro-4-(oxoacetyl)benzoate (6.0 g, 0.028 mol), ethyl orthoformate (12.0 mL, 0.071 mol), and p-toluenesulfonic acid monohydrate (200 mg) in toluene (60 mL) was heated under reflux for 4 h. After cooling, the reaction mixture was concentrated under reduced pressure to give the desired product which was used in the next step without further purification.

reactant | methyl 2-fluoro-4-(oxoacetyl)benzoate | 0.028 mol, 6.0 g | FC1=C(C(=O)OC)C=CC(=C1)C(C=O)=O | C10H7FO4
reactant | ethyl orthoformate | 0.071 mol, 12.0 mL | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(diethoxyacetyl)-2-fluorobenzoate | C(C)OC(C(=O)C1=CC(=C(C(=O)OC)C=C1)F)OCC | C14H17FO5
